US09085534B2
3-{[4-(propan-2-yloxy)benzyl]amino}pyridine-4-carboxylic acid
The title compound was prepared in 28% yield from 1-(4-isopropoxyphenyl)-methanamine and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 3. 1H NMR (400 MHz, DMSO-d6): δ 8.12 (s, 1H), 7.80 (d, 1H, J=5.0 Hz), 7.56 (d, 1H, J=5.0 Hz), 7.28 (d, 2H, J=8.0 Hz), 7.21 (d, 2H, J=8.0 Hz), 4.49 (s, 2H), 2.82-2.89 (m, 1H), 1.19 (d, 6H, J=4.5 Hz). [M+H] calc'd for C16H18N2O3, 287; found 287.

reactant | 1-(4-isopropoxyphenyl)-methanamine | C(C)(C)OC1=CC=C(C=C1)CN | C10H15NO
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-{[4-(propan-2-yloxy)benzyl]amino}pyridine-4-carboxylic acid | 28% yield | CC(C)OC1=CC=C(CNC=2C=NC=CC2C(=O)O)C=C1 | C16H18N2O3
